US07795464B2
Sodium sulfate anhydride (120 mg) was added to a solution obtained by dissolving 3-(methoxymethylphosphinyl)-propanal (60 mg) and benzylamine (42.8 mg) in toluene (3 ml), then the resultant solution was stirred for an hour at room temperature. Sodium sulfate was filtered out, and the resultant filtrate was concentrated to obtain N-benzyl-3-(methoxymethylphosphinyl)-propylideneamine (87 mg).

reactant | 3-(methoxymethylphosphinyl)-propanal | 60 mg | COCP(=O)CCC=O | C5H11O3P
reactant | benzylamine | 42.8 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-3-(methoxymethylphosphinyl)-propylideneamine | 87 mg | C(C1=CC=CC=C1)N=CCCP(=O)COC | C12H18NO2P
